US08580762B2
Step 7. 7-[(3aS,4R,6R,6aR)-2,2-dimethyl-6-({[(3-{[5-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-1,3-benzodiazol-2-yl]methyl}cyclobutyl)methyl]amino}methyl)-hexahydrocyclopenta[d][1,3]dioxol-4-yl]-7H-pyrrolo [2,3-d]pyrimidin-4-amine
A solution of 3-{[5-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-1,3-benzodiazol-2-yl]methyl}cyclobutane-1-carbaldehyde (190 mg, 0.46 mmol), (1R,2S,3R,5R)-3-{4-amino-7H-pyrrolo[2,3-d]pyrimidin-7-yl}-5-(aminomethyl)cyclopentane-1,2-diol (140 mg, 0.46 mmol) and MgSO4 (554 mg, 4.61 mmol) in DCE (10 ml) was stirred for 15 min. STAB (137 mg, 0.645 mmol) was then added to the reaction mixture and stirred. The reaction was monitored by LCMS, after which no amine was seen. Sat. NaHCO3 (20 ml) was added to the reaction mixture and stirred for 5 mins. Brine (10 ml) was added to the reaction mixture and the product was extracted with DCM (2×30 ml), dried over Na2SO4, filtered and evaporated. Purification by silica gel column chromatography, eluting with 7N NH3 in MeOH:DCM (1:99-5:95) gave the desired product as a pink foamy solid. The mixed fractions were combined and purified on a prep.TLC plate eluting with 7N NH3 in MeOH:DCM (2×4:96) to give a total of 170 mg, 53%. MS (ESI+) for C35H48F3N7O3Si m/z 700 [M+H]+; HPLC purity 100% (ret. time, 1.79 min); 1H NMR (250 MHz, CHLOROFORM-d) δH ppm −0.26-0.16 (9 H, m), 0.72-0.97 (2 H, m), 1.30 (3 H, s), 1.38-1.60 (5 H, m), 1.91-2.59 (8 H, m), 2.60-3.27 (6 H, m), 3.35-3.70 (2 H, m), 4.52 (1 H, t, J=5.94 Hz), 4.78-5.20 (4 H, m), 5.39-5.66 (2 H, m), 6.36 (1 H, d, J=3.65 Hz), 7.03 (1 H, d, J=3.65 Hz), 7.42-7.59 (1 H, m), 7.69 (1 H, s), 7.79 (1 H, d, J=8.53 Hz), 8.32 (1 H, s).

reactant | 3-{[5-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-1,3-benzodiazol-2-yl]methyl}cyclobutane-1-carbaldehyde | 0.46 mmol, 190 mg | FC(C1=CC2=C(N(C(=N2)CC2CC(C2)C=O)COCC[Si](C)(C)C)C=C1)(F)F | C20H27F3N2O2Si
reactant | (1R,2S,3R,5R)-3-{4-amino-7H-pyrrolo[2,3-d]pyrimidin-7-yl}-5-(aminomethyl)cyclopentane-1,2-diol | 0.46 mmol, 140 mg | NC=1C2=C(N=CN1)N(C=C2)[C@H]2[C@@H]([C@@H]([C@H](C2)CN)O)O | C12H17N5O2
reactant | MgSO4 | 4.61 mmol, 554 mg | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | NaHCO3 | 20 ml | C(=O)(O)[O-].[Na+]
reactant | DCE | 10 ml | ClCCCl | C2H4Cl2
solvent | Brine | 10 ml | [Cl-].[Na+].O
product | 7-[(3aS,4R,6R,6aR)-2,2-dimethyl-6-({[(3-{[5-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-1,3-benzodiazol-2-yl]methyl}cyclobutyl)methyl]amino}methyl)-hexahydrocyclopenta[d][1,3]dioxol-4-yl]-7H-pyrrolo [2,3-d]pyrimidin-4-amine | CC1(O[C@@H]2[C@H](O1)[C@H](C[C@H]2N2C=CC1=C2N=CN=C1N)CNCC1CC(C1)CC1=NC2=C(N1COCC[Si](C)(C)C)C=CC(=C2)C(F)(F)F)C | C35H48F3N7O3Si
